US09447106B2
To a solution of (2-fluoro-4-nitrophenyl)methanol (755 mg, 4.42 mmol) in 10 mL of DCM was added TsOH (100 mg, 0.13 mmol) and DHP (408 mg, 4.86 mmol). After stirring at RT for 16 hr, the mixture was concentrated. The residue was partitioned between 100 mL of EA and 100 mL of brine. The combined organic layers were washed with brine (100 mL×2), dried over Na2SO4, concentrated and purified by chromatography column on silica gel (elution with PE/EA) to afford 900 mg (80%) of 2-(2-fluoro-4-nitrobenzyloxy)-tetrahydro-2H-pyran as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ 8.34 (dd, J=3.0, 6.2 Hz, 1H), 8.26-8.30 (m, 1H), 7.53 (t, J=9.2 Hz, 1H), 4.82-4.76 (m, 2H), 4.62 (d, J=12.0 Hz, 1H), 3.80-3.74 (m, 1H), 3.52-3.47 (m, 1H), 1.76-1.64 (m, 2H) and 1.58-1.45 (m, 4H).

reactant | (2-fluoro-4-nitrophenyl)methanol | 4.42 mmol, 755 mg | FC1=C(C=CC(=C1)[N+](=O)[O-])CO | C7H6FNO3
reactant | TsOH | 0.13 mmol, 100 mg | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
reactant | DHP | 4.86 mmol, 408 mg | C1CC=COC1 | C5H8O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-fluoro-4-nitrobenzyloxy)-tetrahydro-2H-pyran | 900 mg, 80% | FC1=C(COC2OCCCC2)C=CC(=C1)[N+](=O)[O-] | C12H14FNO4
